US04954339
N,N-dibutyloctylamine was prepared from dibutylamine and octanoyl chloride by a method similar to that in Example 14.

reactant | dibutylamine | C(CCC)NCCCC | C8H19N
reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
product | N,N-dibutyloctylamine | C(CCC)N(CCCC)CCCCCCCC | C16H35N
